US04648996
2-(nonyloxy)benzaldehyde (62 g) dissolved in acetone (500 mL) was treated with aqueous sodium hydroxide (100 mL, 1M) at room temperature for 18 h. Brine and ethyl acetate/hexane (1:1 parts by volume) was then added. Concentration of the organic phase followed by crystallization from hexane gave 4-(2-nonyloxyphenyl)-3-butene-2-one (53 g).

reactant | 2-(nonyloxy)benzaldehyde | 62 g | C(CCCCCCCC)OC1=C(C=O)C=CC=C1 | C16H24O2
reactant | sodium hydroxide | 1M, 100 mL | [OH-].[Na+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetone | 500 mL | CC(=O)C | C3H6O
solvent | Brine | [Cl-].[Na+].O
product | 4-(2-nonyloxyphenyl)-3-butene-2-one | 53 g | C(CCCCCCCC)OC1=C(C=CC=C1)C=CC(C)=O | C19H28O2
